US06087304
6.4 g of methyl 6-hydroxy-2-naphthoate and 2.56 g of sodium methoxide are stirred under N2 at 40° C. for 30 min in 100 ml of DMF. 8.04 g of N-(2-chloroethyl)morpholine are then added and the mixture is stirred at 80° C. for 2 h. The reaction mixture is poured onto water, and the precipitate which is deposited is filtered off with suction. 9.2 g of methyl 6-[2-(4-morpholinyl)ethoxy]-2-naphthoate are obtained.

reactant | methyl 6-hydroxy-2-naphthoate | 6.4 g | OC=1C=C2C=CC(=CC2=CC1)C(=O)OC | C12H10O3
reactant | sodium methoxide | 2.56 g | C[O-].[Na+]
reactant | N-(2-chloroethyl)morpholine | 8.04 g | ClCCN1CCOCC1 | C6H12ClNO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | methyl 6-[2-(4-morpholinyl)ethoxy]-2-naphthoate | 9.2 g | N1(CCOCC1)CCOC=1C=C2C=CC(=CC2=CC1)C(=O)OC | C18H21NO4
